US07989463B2
Step (i): Synthesis of tert-butyl-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-amine
A mixture of 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine (0.47 g, 2.5 mmol), tert-butylamine (1.25 ml, 11.8 mmol) and isopropanol (5 ml) was heated at reflux for 8 to 18 hours. After evaporation of volatiles the mixture was purified by flash chromatography over silica gel to afford the title compound as a white solid (0.36 g, 64% yield).

reactant | 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine | 2.5 mmol, 0.47 g | ClC1=NC2=C(C(=N1)Cl)CCC2 | C7H6Cl2N2
reactant | tert-butylamine | 11.8 mmol, 1.25 ml | C(C)(C)(C)N | C4H11N
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | tert-butyl-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-amine | 0.36 g, 64% yield | C(C)(C)(C)NC1=NC(=NC2=C1CCC2)Cl | C11H16ClN3
